US08536157B2
(E)-6,7-Dimethoxy-3,4-dihydronaphthalen-1(2H)-one O-4-Nitrobenzyl Oxime (1-TB-39)
(4-Nitrobenzyl)hydroxylamine hydrochloride (119 mg, 0.58 mmol) and pyridine (0.5 mL, 6.45 mmol) were added to a magnetically stirred solution of 6,7-dimethoxy-1-tetralone (100 mg, 0.48 mmol) in ethanol (2 mL) and the ensuing mixture heated at reflux for 2 h. The cooled reaction mixture was concentrated under reduced pressure and the residue thus obtained partitioned between CH2Cl2 (5 mL) and water (5 mL). The separated aqueous layer was washed with CH2Cl2 (1×5 mL) and the combined organic extracts were then dried (MgSO4), filtered and concentrated under reduced pressure. The ensuing residue was subjected to flash chromatography (3:7 v/v ethyl acetate/hexane elution) and concentration of the appropriate fractions gave the title compound (148 mg, 86%) as yellow crystals, m.p. 124-127° C., Rf 0.3.

reactant | (4-Nitrobenzyl)hydroxylamine hydrochloride | 0.58 mmol, 119 mg | Cl.[N+](=O)([O-])C1=CC=C(CNO)C=C1
reactant | pyridine | 6.45 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 6,7-dimethoxy-1-tetralone | 0.48 mmol, 100 mg | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | (E)-6,7-Dimethoxy-3,4-dihydronaphthalen-1(2H)-one O-4-Nitrobenzyl Oxime | 148 mg, 86% | [N+](=O)([O-])C1=CC=C(CO\N=C\2/CCCC3=CC(=C(C=C23)OC)OC)C=C1 | C19H20N2O5
